US04196208
Preparation of 1-Ethoxyethyl 4-(hexadecylamino)benzoate
A mixture of 22.0 g. of ethyl 1-chloroethyl ether, 77.0 g. of sodium 4-(hexadecylamino)benzoate and 250 ml. of hexamethylphosphoramide is stirred at 20° C. for 24 hours. After slow addition of water to the crystallization point and standing for 3 hours, the acetal ester is collected on a filter.

reactant | ethyl 1-chloroethyl ether | ClC(C)OCC | C4H9ClO
reactant | sodium 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | 1-Ethoxyethyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)OCC)C=C1 | C27H47NO3
